US07091228B2
4-[4′-(1H-Benzimidazol-2-ylamino)-1,1′-biphenyl-4-yl]-2,2-dimethyl-4-oxobutanoic acid
This compound was prepared from methyl 4-(4′-amino-1,1′-biphenyl-4-yl)-2,2-dimethyl-4-oxobutanoate (64 mg, 0.21 mmol) and 2-chloro-1H-benzimidazole (37.6 mg, 0.25 mmol) in a similar manner to the method described for 4-[4′-(1,3-benzothiazol-2-ylamino)-1,1′-biphenyl-4-yl]-2,2-dimethyl-4-oxobutanoic acid, providing 40.7 mg (48%) of the desired product. 1H NMR (400 MHz, DMSO-d6) δ 12.00 (br s, 1 H), 11.05 (br s, 1 H), 8.05 (d, 2 H), 7.85 (m, 4 H), 7.65 (d, 2 H), 7.40 (m, 2 H), 7.10 (m, 2 H), 3.35 (s, 2 H), 1.25 (s, 6 H). LC-MS m/z 414.3 (MH+), ret. time 2.27 min.

reactant | methyl 4-(4′-amino-1,1′-biphenyl-4-yl)-2,2-dimethyl-4-oxobutanoate | 0.21 mmol, 64 mg | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(CC(C(=O)OC)(C)C)=O | C19H21NO3
reactant | 2-chloro-1H-benzimidazole | 0.25 mmol, 37.6 mg | ClC1=NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 4-[4′-(1,3-benzothiazol-2-ylamino)-1,1′-biphenyl-4-yl]-2,2-dimethyl-4-oxobutanoic acid | S1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)C2=CC=C(C=C2)C(CC(C(=O)O)(C)C)=O | C25H22N2O3S
product | 4-[4′-(1H-Benzimidazol-2-ylamino)-1,1′-biphenyl-4-yl]-2,2-dimethyl-4-oxobutanoic acid | 40.7 mg, 48% | N1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)C2=CC=C(C=C2)C(CC(C(=O)O)(C)C)=O | C25H23N3O3
